US04964870
I. Synthesis of 1 Octanoyloxy-3-Hydroxy Benzene
Adapting the method of synthesis disclosed in D. Johnston, "Preparation of Hydroquinone Monoacetate," Chemistry & Industry 24:1000 (1982) (which is incorporated herein by reference), it is expected that resorcinol may be combined with about an equimolar amount of dioctanoic acid anhydride, and ethyl acetate solvent, a non-nucleophilic solvent, in the presence of 4-dimethylaminopyridine, a catalyst, and a base, such as triethylamine, at room temperature, to produce the desired 1 octanoyloxy-3-hydroxy benzene (resorcinol monooctanoate).

reactant | Hydroquinone Monoacetate | C(C)(=O)O.C1(O)=CC=C(O)C=C1
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | dioctanoic acid anhydride | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
reactant | octanoyloxy-3-hydroxy benzene (resorcinol monooctanoate) | C1(O)=C(C(O)=CC=C1)CCCCCCCC(=O)O.C(CCCCCCC)(=O)OC1=CC(=CC=C1)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Octanoyloxy-3-Hydroxy Benzene | C(CCCCCCC)(=O)OC1=CC(=CC=C1)O | C14H20O3
